US08207178B2
Step F: 4-(6-(4-(Pyridin-4-yl)phenoxy)-7H-purin-2-ylamino)benzonitrile
A solution of 4-(7-(4-methoxybenzyl)-6-(4-(pyridin-4-yl)phenoxy)-7H-purin-2-ylamino)benzonitrile (38 mg, 0.07 mmol) in TFA (0.5 mL) was heated at 60° C. overnight. The desired product was precipitated with EtOAc (2 mL) and collected by filtration. NMR (DMSO-d6): 9.98 (s, 1H), 8.95 (d, 2H), 8.38 (d, 2H), 8.35 (d, 2H), 8.20 (d, 2H), 7.76 (d, 2H), 7.63 (d, 2H), 7.53 (d, 2H).

reactant | 4-(7-(4-methoxybenzyl)-6-(4-(pyridin-4-yl)phenoxy)-7H-purin-2-ylamino)benzonitrile | 0.07 mmol, 38 mg | COC1=CC=C(CN2C=NC3=NC(=NC(=C23)OC2=CC=C(C=C2)C2=CC=NC=C2)NC2=CC=C(C#N)C=C2)C=C1 | C31H23N7O2
solvent | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(6-(4-(Pyridin-4-yl)phenoxy)-7H-purin-2-ylamino)benzonitrile | N1=CC=C(C=C1)C1=CC=C(OC2=C3NC=NC3=NC(=N2)NC2=CC=C(C#N)C=C2)C=C1 | C23H15N7O
